US04134980
1-[4-Methyl-6,7-dimethoxy-1(2H)-phthalazinone-2-yl]-3-[N-benzyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]propane was prepared analogous to Example 1 (a) by reaction of 1-[4-methyl-6,7-dimethoxy-1(2H)-phthalazinone-2-yl]-3-chloro-propane with N-(3,4-dimethoxy-phenylethyl)-N-benzylamine in chlorobenzene. Rf -value (chloroform/methanol = 9/1) : 0.9.

reactant | 1-[4-methyl-6,7-dimethoxy-1(2H)-phthalazinone-2-yl]-3-chloro-propane | CC1=NN(C(C2=CC(=C(C=C12)OC)OC)=O)CCCCl | C14H17ClN2O3
reactant | N-(3,4-dimethoxy-phenylethyl)-N-benzylamine | COC=1C=C(C=CC1OC)CCNCC1=CC=CC=C1 | C17H21NO2
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 1-[4-Methyl-6,7-dimethoxy-1(2H)-phthalazinone-2-yl]-3-[N-benzyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]propane | CC1=NN(C(C2=CC(=C(C=C12)OC)OC)=O)CCCN(CCC1=CC(=C(C=C1)OC)OC)CC1=CC=CC=C1 | C31H37N3O5
